US08975254B2
c) 3-Tert-butyl-N-(1-(5-(3,4-dichlorophenyl)furan-2-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
5-Tert-butyl-2H-pyrazole-3-carboxylic acid (94 mg; 0.55 mmol) was dissolved in DCM:DMF (4:1, 5 ml). DCC (172 mg; 0.83 mmol) was added. 1-(5-(3,4-dichlorophenyl)furan-2-yl)propan-2-amine (149 mg; 0.55 mmol) was dissolved in 2 ml of DCM and TEA (77 μl, 0.55 mmol) and the resulting solution was added to the reaction mixture. The reaction mixture was stirred overnight at RT. Then DCM (50 ml) was added and organic phase was washed with water (2×30 ml). The organic phase was dried over Na2SO4, evaporated and purified by chromatography (CombiFlash, 1st column silica, eluent: 7.5-100% EtOAc/heptane; 2nd column silica, eluent: 0-5% MeOH/DCM) to give 35 mg (15%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.19 (d, 3H), 1.27 (s, 9H), 2.88 (dd, 1H), 2.98 (dd, 1H), 4.33 (quintet, 1H), 6.29 (d, 1H), 6.33 (s, 1H), 7.00 (d, 1H), 7.60 (m, 2H), 7.83 (d, 1H), 7.89 (d, 1H), 12.84 (s, 1H).

reactant | 5-Tert-butyl-2H-pyrazole-3-carboxylic acid | 0.55 mmol, 94 mg | C(C)(C)(C)C=1C=C(NN1)C(=O)O | C8H12N2O2
reactant | DCC | 0.83 mmol, 172 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-(5-(3,4-dichlorophenyl)furan-2-yl)propan-2-amine | 0.55 mmol, 149 mg | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CC(C)N | C13H13Cl2NO
solvent | DCM DMF | 5 ml | C(Cl)Cl.CN(C)C=O
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Tert-butyl-N-(1-(5-(3,4-dichlorophenyl)furan-2-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 35 mg, 15% | C(C)(C)(C)C1=NNC(=C1)C(=O)NC(CC=1OC(=CC1)C1=CC(=C(C=C1)Cl)Cl)C | C21H23Cl2N3O2
